US09034899B2
Preparation of 4-(3,4-dichlorophenyl)-6-fluoro-7-(3-(methylsulfonyl)phenyl)-1,2,3,4-tetrahydroisoquinoline
Following the procedure of Step A and Step B of Example 19, 4-(3,4-dichlorophenyl)-6-fluoro-2-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline (500 mg, 1.1 mmol), 1-bromo-3-(methylsulfonyl)benzene (517 mg, 2.2 mmol), cesium carbonate (1.08 g, 3.3 mmol), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) (44 mg, 0.06 mmol) in N,N-dimethylformamide (10 mL) and water (3 mL) followed by N-de-methylation with N1,N1,N8,N8-tetramethylnaphthalene-1,8-diamine (240 mg, 1.12 mmol) and 1-chlorethyl chloroformate (0.31 mL, 2.8 mmol) gave after purification by preparative HPLC followed by preparative thin layer chromatography (90:10:1 diethyl ether/methanol/concentrated ammonium hydroxide) 4-(3,4-dichlorophenyl)-6-fluoro-7-(3-(methylsulfonyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (38 mg, 15%) as a colorless oil: 1H NMR (CDCl3, 500 MHz) δ 8.10 (s, 1H), 7.94 (d, J=7.5 Hz, 1H), 7.84 (d, J=7.5 Hz, 1H), 7.65 (dd, J=8.0, 8.0 Hz, 1H), 7.41 (d, J=8.0 Hz, 1H), 7.26 (s, 1H), 7.20 (d, J=7.5 Hz, 1H), 7.01 (dd, J=8.0, 2.0 Hz, 1H), 6.71 (d, J=11.0 Hz, 1H), 4.20-4.09 (m, 3H), 3.43 (dd, J=13.0, 5.5 Hz, 1H), 3.10 (s, 3H), 3.07 (dd, J=13.0, 6.5 Hz, 1H), 2.04 (br s, 1H); ESI MS m/z 450 [M+H]+

reactant | 4-(3,4-dichlorophenyl)-6-fluoro-2-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline | 1.1 mmol, 500 mg | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=C(C=C12)F)B1OC(C(O1)(C)C)(C)C)C | C22H25BCl2FNO2
reactant | 1-bromo-3-(methylsulfonyl)benzene | 2.2 mmol, 517 mg | BrC1=CC(=CC=C1)S(=O)(=O)C | C7H7BrO2S
reactant | cesium carbonate | 3.3 mmol, 1.08 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N1,N1,N8,N8-tetramethylnaphthalene-1,8-diamine | 1.12 mmol, 240 mg | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | 1-chlorethyl chloroformate | 2.8 mmol, 0.31 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 3 mL | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) | 0.06 mmol, 44 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(3,4-dichlorophenyl)-6-fluoro-7-(3-(methylsulfonyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | ClC=1C=C(C=CC1Cl)C1CNCC2=CC(=C(C=C12)F)C1=CC(=CC=C1)S(=O)(=O)C | C22H18Cl2FNO2S
